US05990101
2-hydroxymethylimidazo[5,1-b]thiazole
A 846 mg potion of 2-acetoxymethylimidazo[5,1-b]thiazole was dissolved in a mixed solution of 17 ml of methanol and 1 ml of an aqueous saturated potassium carbonate solution, followed by stirring at room temperature for 1.5 hours. Then, the reaction solution was filtered, and the filtrate was then concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatograph to obtain 550 mg of the title compound.

reactant | 2-acetoxymethylimidazo[5,1-b]thiazole | C(C)(=O)OCC1=CN2C(S1)=CN=C2 | C8H8N2O2S
solvent | methanol | 17 ml | CO | CH4O
solvent | potassium carbonate | 1 ml | C([O-])([O-])=O.[K+].[K+]
product | 2-hydroxymethylimidazo[5,1-b]thiazole | 550 mg | OCC1=CN2C(S1)=CN=C2 | C6H6N2OS
